US05898031
vi. N2 -Isobutyryl-9-(3', 5'-di-O-[tetrahydropyran-2-yl]-2'-O-trifluoromethylsulfonyl-β-D-arabinofuranosyl)guanine.
N2 -Isobutyryl-9-(3', 5'-di-O-[tetrahydropyran-2-yl]-β-D-arabinofuranosyl)guanine (3.84 g) was dissolved in anhydrous CH2Cl2 (79 mL), anhydrous pyridine (5 mL) and DMAP (2.93 g) at room temperature under argon. The solution was cooled to 0° C. and trifluoromethanesulfonic anhydride (1.99 mL) was slowly added with stirring. The reaction mixture was stirred at room temperature for 1 hour then poured into 100 mL of saturated NaHCO3. The aqueous phase was extracted three times with cold CH2Cl2. The organic phase was dried over MgSO4, evaporated and coevaporated with anhydrous MeCN to yield a crude product.

reactant | N2 Isobutyryl-9-(3', 5'-di-O-[tetrahydropyran-2-yl]-β-D-arabinofuranosyl)guanine | 3.84 g | N#N.C(C(C)C)(=O)NC=1NC(C=2N=CN(C2N1)[C@H]1[C@@H](O)[C@H](OC2OCCCC2)[C@H](O1)COC1OCCCC1)=O
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.99 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 79 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.93 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N2 Isobutyryl-9-(3', 5'-di-O-[tetrahydropyran-2-yl]-2'-O-trifluoromethylsulfonyl-β-D-arabinofuranosyl)guanine | N#N.C(C(C)C)(=O)NC=1NC(C=2N=CN(C2N1)[C@H]1[C@@H](OS(=O)(=O)C(F)(F)F)[C@H](OC2OCCCC2)[C@H](O1)COC1OCCCC1)=O | InChI=1S/C25H34F3N5O10S.N2/c1-13(2)21(34)31-24-30-20-17(22(35)32-24)29-12-33(20)23-19(43-44(36,37)25(26,27)28)18(42-16-8-4-6-10-39-16)14(41-23)11-40-15-7-3-5-9-38-15;1-2/h12-16,18-19,23H,3-11H2,1-2H3,(H2,30,31,32,34,35);/t14-,15?,16?,18-,19+,23-;/m1./s1
